US07256198B2
Step 3: 8-Bromo-4-methyl-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one
To cold concentrated H2SO4 (3 mL) was added 8′-bromo-4′-methyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole] (0.252 g, 0.747 mmol) in four portions with cooling in an ice bath. The reaction was then allowed to stir at room temperature for 1 hr. The mixture was poured onto ice and basified with NH4OH to pH 11 with cooling in an external ice bath. The reaction mixture was extracted with Et2O (2×). The combined organic extracts were dried over Na2SO4, filtered, and concentrated. The crude product was purified on Biotage KP silica gel eluting with CH2Cl2/CH3OH/NH4OH (96/2/1) to give the title compound as a red solid (0.138 g, 66% ). Anal. Calc'd for C12H11BrN2O: C, 51.64; H, 3.97; N, 10.04; Found: C, 51.23; H, 3.89; N, 9.88. NMR (300 Mz, DMSO-d6): consistent. MS: (ES+) m/z 278/280 [M+H]; 1 Br pattern observed. m.p.: 127-129° C.

reactant | H2SO4 | 3 mL | OS(=O)(=O)O | H2O4S
reactant | 8′-bromo-4′-methyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole] | 0.747 mmol, 0.252 g | BrC1=CC=2C3(C=4N(C2C=C1)C(CCN4)C)OCCCO3 | C15H17BrN2O2
reactant | NH4OH | [NH4+].[OH-]
product | 8-Bromo-4-methyl-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | 0.138 g, 66% | BrC1=CC=2C(C=3N(C2C=C1)C(CCN3)C)=O | C12H11BrN2O
